US06576762B2
c) 4-(tert-Butyl-dimethyl-silanyloxy)-4′-iodo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide
To a solution of 500 mg (1.43 mmol) 4-(tert-butyl-dimethyl-silanyloxy)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide, 1.7 ml (11 mmol) N,N,N′,N′-tetramethyl-ethylenediamine and 1.0 ml (5.7 mmol) 2,2,6,6-tetramethylpiperidine in 9.5 ml dry tetrahydrofuran 7.2 ml (11 mmol) of a 1.6 M solution of n-butyllithium in hexanes were added dropwise during 10 min. at −78° C. under argon. The resulting solution was stirred at −78° C. for 30 min., warmed to −20° C. and stirred at this temperature for 3 h. After cooling the reaction mixture to −78° C. a solution of 2.92 g (11.5 mmol) iodine in 7 ml dry tetrahydrofuran was added dropwise under argon. The resulting suspension was kept at −78° C. for 2 h and subsequently allowed to warm to room temperature over 1 h. The suspension was poured into a solution of 12.4 g (50.0 mmol) sodium thiosulfate pentahydrate in 50 ml ice-water. The resulting yellow suspension was extracted with two 250-ml portions of tert-butyl methyl ether. The combined organic extracts were washed with 2 portions of a saturated aqueous ammonium chloride solution, dried with sodium sulfate and concentrated. Flash chromatography afforded 495 mg (72.8 %) of the title compound as an off-white amorphous mass.

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide | 1.43 mmol, 500 mg | CNC(=O)C=1C=CC(=NC1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C18H31N3O2Si
reactant | N,N,N′,N′-tetramethyl-ethylenediamine | 11 mmol, 1.7 ml | CN(CCN(C)C)C | C6H16N2
reactant | 2,2,6,6-tetramethylpiperidine | 5.7 mmol, 1.0 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodine | 11.5 mmol, 2.92 g | II | I2
reactant | sodium thiosulfate pentahydrate | 50.0 mmol, 12.4 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 mmol, 9.5 ml | O1CCCC1 | C4H8O
product | 4-(tert-Butyl-dimethyl-silanyloxy)-4′-iodo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide | 495 mg, 72.8 % | CNC(=O)C=1C(=CC(=NC1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C)I | C18H30IN3O2Si
